US08278302B2
Methyl 3-(tert.-butoxycarbonylamino)-5-tert-butylbenzoate (0.42 g) was dissolved in DCM (5 ml). To the resulting solution, TFA (1 ml) was added, the mixture was stirred for 30 min at room temperature and then concentrated in vacuum. The residue was dissolved in DCM and extracted with aqueous sodium bicarbonate solution. The organic layer was separated, dried over sodium sulphate and concentrated in vacuum to yield ethyl 3-amino-5-tert-butylbenzoate (0.28 g), which was used for the synthesis of example 112 without further purification.

reactant | Methyl 3-(tert.-butoxycarbonylamino)-5-tert-butylbenzoate | 0.42 g | C(C)(C)(C)OC(=O)NC=1C=C(C(=O)OC)C=C(C1)C(C)(C)C | C17H25NO4
reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | ethyl 3-amino-5-tert-butylbenzoate | 0.28 g | NC=1C=C(C(=O)OCC)C=C(C1)C(C)(C)C | C13H19NO2
